US05591775
EXAMPLE 76: N-[2-(7-METHOXY-3-ACETOXYNAPHTH-1-YL)ETHYL]ACETAMIDE
To a solution of 2.8 g (9.81 mmol) of N-[2-(7-methoxy-3-acetylnaphth-1-yl)ethyl]acetamide, according to Example 49, in 125 cm3 of methanol is added a solution of 7.6 g (12.3 mmol) of monoperoxyphthalic acid magnesium salt in 100 cm3 of water adjusted to pH 5 with 1N NaOH. Stir at room temperature for 24 hours. Evaporate off the methanol, add 1N NaHCO3, extract with CH2Cl2, dry over MgSO4, filter and concentrate. The compound of Example 76 is obtained.

reactant | N-[2-(7-methoxy-3-acetylnaphth-1-yl)ethyl]acetamide | 9.81 mmol, 2.8 g | COC1=CC=C2C=C(C=C(C2=C1)CCNC(C)=O)C(C)=O | C17H19NO3
reactant | monoperoxyphthalic acid magnesium salt | 12.3 mmol, 7.6 g | [Mg+2].C(C=1C(C(=O)[O-])=CC=CC1)(=O)O[O-]
reactant | NaOH | 1N | [OH-].[Na+]
solvent | methanol | 125 cm3 | CO | CH4O
solvent | water | 100 cm3 | O | H2O
product | N-[2-(7-METHOXY-3-ACETOXYNAPHTH-1-YL)ETHYL]ACETAMIDE | COC1=CC=C2C=C(C=C(C2=C1)CCNC(C)=O)OC(C)=O | C17H19NO4
